US04683296
Trimethylsilyl acetoacetate
A solution of ethyl acetoacetate (2.60 g. 20 mmol; Aldrich) and trimethylsilylethanol (2.51 g, 21.1 mmol, Fluka) in toluene (100 ml) was heated and slowly distilled at 80°-100° with a Vigreaux column (1.7 cm×7 cm), removing most of the solvent over a period of 10 h. The residue was distilled under a reduced pressure with a Vigreaux column (1.7 cm×7 cm to obtain 3.34 g (16.5 mmol, yield 82.7%) of the title compound as a colourless oil: Rf 0.32 (20% ETOAc/Hex); bp 85°-88° C. (0.3 Torr); ir (neat) max : 1740 (ketone) and 1720 (ester) cm-1 ; 1Hmr (CDCl3) : 0.07 (9H, s, SiMe3), 1.00 (2H, `t` J=8 Hz, SiCH2), 1.93 (0.45H, s, MeC(OH)=), 2.28 (2.55H, s, MeCO), 3.12 (0.15H, s, OH of the enol form), 3.43 (1.7H, s, COCH2), 4.2 (2H, `t` J=8 Hz, CO2CH2), and 4.95 (0.15H, s, vinyl proton of the enol form) ppm;

reactant | ethyl acetoacetate | 20 mmol, 2.60 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | trimethylsilylethanol | 21.1 mmol, 2.51 g | C[Si](C)(C)C(C)O | C5H14OSi
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Trimethylsilyl acetoacetate | 16.5 mmol, 3.34 g, yield 82.7% | C(CC(=O)C)(=O)O[Si](C)(C)C | C7H14O3Si
